US07368472B2
(4-Phtalimido-phenyl)-carbamic acid ethyl ester
(4-Amino-phenyl)-carbamic acid ethyl ester (118 g, 0.65 mol) is dissolved in glacial acetic acid (2.0 L) under nitrogen and the mixture is heated to 90° C. Phthalic anhydride (102.0 g, 0.69 mol) is added portionwise over 30 minutes and the reaction is kept at 90° C. for 2 hours. The mixture is allowed to cool to ambient temperature and the precipitated solid is filtered off. The solid is washed on the filter with water (2 L) followed by diethylether (3 L) and then dried in vacuo. Yield 127 g (62%) title compound as white crystalline compound. LC/MS (m/z) 311.3 (MH+); tR=2.57 min. 1H NMR (DMSO-d6): 1.26 (t, 3H); 4.15 (q, 2H); 7.34 (dd, 2H); 7.58 (dd, 2H); 7.90 (ddd, 2H); 7.95 (ddd, 2H); 9.80 (s, 1H, NH).

reactant | (4-Amino-phenyl)-carbamic acid ethyl ester | 0.65 mol, 118 g | C(C)OC(NC1=CC=C(C=C1)N)=O | C9H12N2O2
reactant | Phthalic anhydride | 0.69 mol, 102.0 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
solvent | acetic acid | 2.0 L | C(C)(=O)O | C2H4O2
product | (4-Phtalimido-phenyl)-carbamic acid ethyl ester | C(C)OC(NC1=CC=C(C=C1)N1C(C=2C(C1=O)=CC=CC2)=O)=O | C17H14N2O4
